US08871756B2
N-{[3-(aminomethyl)oxetan-3-yl]methyl}-6-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-amine
The title compound was prepared in analogy to Example 56-1 in Scheme 23 by using 2,4,6-trichloroquinazoline, oxetane-3,3-diyldimethanamine and 2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide. MS obsd. (ESI+) [(M+H)+] 474, 1H NMR (400 MHz, CD3OD) δ ppm 7.99 (d, J=6.82 Hz, 1 H), 7.94 (d, J=2.53 Hz, 1 H), 7.88 (d, J=7.07 Hz, 1 H), 7.66-7.59 (m, 1 H), 7.52-7.42 (m, 2 H), 7.42-7.36 (m, 1 H), 5.21 (brs, 2 H), 4.69-4.56 (m, 5 H), 4.51 (d, J=6.32 Hz, 2 H), 4.05 (brs, 2 H), 3.52 (t, J=5.05 Hz, 2 H), 3.04 (s, 2 H).

reactant | 2,4,6-trichloroquinazoline | ClC1=NC2=CC=C(C=C2C(=N1)Cl)Cl | C8H3Cl3N2
reactant | oxetane-3,3-diyldimethanamine | O1CC(C1)(CN)CN | C5H12N2O
reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | S1(CCNCC2=C1C=CC=C2)(=O)=O | C9H11NO2S
product | N-{[3-(aminomethyl)oxetan-3-yl]methyl}-6-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-amine | NCC1(COC1)CNC1=NC(=NC2=CC=C(C=C12)Cl)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C22H24ClN5O3S
